US05712300
Preparation of Ethyl 3-(2-methylpropyl)-2-oxo-3-(propen-2-yl)-1-pyrrolidineacetate
A solution of potassium bis(trimethylsilyl)amide (0.5M in toluene, 16.4 mL, 8.19 mmol) is cooled to 0° C., and a solution of 3-(2-methylpropyl)-3-(propen-2-yl)-2-pyrrolidinone (1.24 g, 6.82 mmol) in THF (10 mL) is added dropwise over 2 minutes After stirring at 0° C. for 40 minutes, ethyl bromoacetate (0.91 mL, 8.2 mmol) is added. The reaction is stirred at 0° C. for 3 hours and for 1 hour at room temperature. After quenching with saturated aqueous ammonium chloride (10 mL), aqueous workup (EtOAc, MgSO4) and purification by column chromatography (1:9:10 v/v CH2Cl2 :EtOAc:hexane) provided 1.66 g (91%) of the title compound as an oil.

reactant | potassium bis(trimethylsilyl)amide | 8.19 mmol, 0.5M, 16.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-(2-methylpropyl)-3-(propen-2-yl)-2-pyrrolidinone | 6.82 mmol, 1.24 g | CC(CC1(C(NCC1)=O)C(=C)C)C | C11H19NO
reactant | ethyl bromoacetate | 8.2 mmol, 0.91 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(2-methylpropyl)-2-oxo-3-(propen-2-yl)-1-pyrrolidineacetate | 1.66 g, 91% | CC(CC1(C(N(CC1)CC(=O)OCC)=O)C(=C)C)C | C15H25NO3
